US06660753B2
In a similar fashion, 5-chloronicotinoyl chloride was prepared from 5-chloronicotinic acid (157 mg, 1 mmol). Treatment of the acid chloride with pyrid-2-ylamidoxime (137 mg, 1 mmol) and triethylamine (404 mg, 4 mmol) in dichloromethane (2 mL), followed by heating in dimethylformamide (2 mL) at 120° C. for 3 hours afforded 149 mg (58%) of 3-(2-pyridyl)-5-(5-chloro-pyrid-3-yl)-1,2,4-oxadiazole (149 mg, 57.6%).

reactant | 5-chloronicotinoyl chloride | ClC=1C=NC=C(C(=O)Cl)C1 | C6H3Cl2NO
reactant | 5-chloronicotinic acid | 1 mmol, 157 mg | ClC=1C=NC=C(C(=O)O)C1 | C6H4ClNO2
reactant | triethylamine | 4 mmol, 404 mg | C(C)N(CC)CC | C6H15N
reactant | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 3-(2-pyridyl)-5-(5-chloro-pyrid-3-yl)-1,2,4-oxadiazole | 149 mg | N1=C(C=CC=C1)C1=NOC(=N1)C=1C=NC=C(C1)Cl | C12H7ClN4O
